US06559145B2
N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-1-methyl-1H-2,1-benzothiazine-3-carboxamide 2,2-Dioxide [BW.7]
To a solution of N-(4-chlorobenzyl)-4-hydroxy-1-methyl-6-(3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl)-1H-2,1-benzothiazine-3-carboxamide 2,2-dioxide (Preparation 53, 0.30 g) in CH3OH (30 mL) is added p-TsOH.H2O (30 mg). The reaction mixture is heated to 55° C. for 2 h. The solvent is evaporated in vacuo and the residue is diluted with Et2O (20 mL) and sonicated. The resulting precipitate is filtered and washed with Et2O to afford 0.16 g (61%) of the title compound as a white solid. Physical characteristics: m.p. 167-168° C.; 1H NMR (300 MHz, CDCl3) δ 15.82, 8.21, 7.93, 7.69, 7.36, 7.17, 4.60, 4.53, 3.49, 2.21; IR (diffuse reflectance) 3344, 1615, 1579, 1554, 1540, 1490, 1392, 1385, 1325, 1310, 1293, 1279, 1160, 1093, 1031 cm−1; MS (ESI+) m/z 433 (MH+); HRMS (FAB) m/z 433.0614 (C20H17ClN2O5S+H). Anal. Found: C, 54.57; H, 4.16; N, 6.10.

reactant | N-(4-chlorobenzyl)-4-hydroxy-1-methyl-6-(3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl)-1H-2,1-benzothiazine-3-carboxamide 2,2-dioxide | 0.30 g | ClC1=CC=C(CNC(=O)C=2S(N(C3=C(C2O)C=C(C=C3)C#CCOC3OCCCC3)C)(=O)=O)C=C1 | C25H25ClN2O6S
reactant | p-TsOH.H2O | 30 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | CH3OH | 30 mL | CO | CH4O
product | N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-1-methyl-1H-2,1-benzothiazine-3-carboxamide 2,2-Dioxide | 0.16 g, 61% | ClC1=CC=C(CNC(=O)C=2S(N(C3=C(C2O)C=C(C=C3)C#CCO)C)(=O)=O)C=C1 | C20H17ClN2O5S
